US06660744B1
To 1H-2-indolecarboxylic acid (0.738 g, 4.58 mmol) in dichloromethane (14 mL) was added oxalyl chloride (4 mL, 45.8 mmol) and DMF (1drop). The reaction mixture was stirred overnight. Solvent was evaporated and the residue was dissolved in Dichloromethane (5 mL). Half of the dichloromethane solution (2.5 mL) was added to a solution of trans-3-(4-amino-3-methoxyphenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.50 g, 1.145 mmol) in pyridine (6 mL) at 0° C. After 30 minutes, the solid as collected by filtration. Water was then added to the solid and the pH of the solution was adjusted to 10 with sodium hydroxide (1.0N). The aqueous was extracted with dichloromethane. The combined organic layer was washed with water then brine, dried over MgSO4, filtered and evaporated. The residue was purified by flash column chromatography using dichloromethane/methanol (80:20) as mobile phase to give trans-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-1H-2-indolecarboxamide (0.312 g, 47%). 1H NMR (DMSO-d6) δ 1.49 (m, 2H), 2.05 (m, 6H), 2.15 (s, 3H), 2.32 (m, 5H), 2.51 (m, 4H), 3.97 (s, 3H), 4.66 (m, 1H), 7.10 (m, 1H), 7.22 (m, 1H), 7.30 (d, J=7.98 Hz, 1H), 8.11 (d, J=8.14 Hz, 1H), 8.24 (s, 1H), 9.44 (s, 1H).

reactant | 1H-2-indolecarboxylic acid | 4.58 mmol, 0.738 g | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | oxalyl chloride | 45.8 mmol, 4 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | trans-3-(4-amino-3-methoxyphenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 1.145 mmol, 0.50 g | NC1=C(C=C(C=C1)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C)OC | C23H32N8O
solvent | dichloromethane | 14 mL | ClCCl | CH2Cl2
catalyst | DMF | 1drop | CN(C)C=O | C3H7NO
solvent | pyridine | 6 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
product | trans-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-1H-2-indolecarboxamide | 0.312 g, 47% | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)C=2NC1=CC=CC=C1C2)OC)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C32H37N9O2
